US04073917
1-n-Butoxy-2-(2'-piperidinoethoxy)-benzene
The compound was prepared as described in Example 1, using sodium (2.3 g, 100 mmole), o-butoxyphenol (8.30 g, 50 mmole) and piperidinoethylchloride hydrochloride (9.2 g, 50 mmole) in 150 ml of ethanol. Yield 4.4 g (32%) of product boiling at 121° C under a pressure of 0.02 mm Hg; nD25 1.5135.

reactant | sodium | 100 mmole, 2.3 g | [Na] | Na
reactant | o-butoxyphenol | 50 mmole, 8.30 g | C(CCC)OC1=C(C=CC=C1)O | C10H14O2
reactant | piperidinoethylchloride hydrochloride | 50 mmole, 9.2 g | Cl.N1(CCCCC1)CCCl
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-n-Butoxy-2-(2'-piperidinoethoxy)-benzene | C(CCC)OC1=C(C=CC=C1)OCCN1CCCCC1 | C17H27NO2
